US05981533
4-(3-Chloro-phenylamino)-3-(4-dimethylamino-phenylamino)-1H-pyrazolo-[3,4-d]pyrimidine
A mixture of 5 g (16.8 mmol) of 4-cyano-5-(dimethylamino-methyleneamino)-3-(4-dimethylamino-phenylamino)-pyrazole, 3.3 g (20.1 mmol) of 3-chloro-aniline hydrochloride and 40 ml of DMF is heated for 8 hours, with stirring, at 130° C. The reaction mixture is then cooled to RT, water is added dropwise thereto, and the reaction mixture is then filtered and the filter residue is dissolved in approx. 20 ml of DMF. After precipitation with water, followed by recrystallization from DMF/water, the resulting crystals are suspended in 10 ml of water. 6 ml of 1N hydrochloric acid are added, the mixture is heated briefly to reflux and filtered and 3 ml of 2N sodium hydroxide solution are added to the filtrate. The crystalline precipitate is filtered off, washed with water and dried under a high vacuum at 120° C., yielding the title compound having a water content of 2.32%; m.p. 250-255° C. (decomp.).

reactant | 4-cyano-5-(dimethylamino-methyleneamino)-3-(4-dimethylamino-phenylamino)-pyrazole | 16.8 mmol, 5 g | C(#N)C=1C(=NNC1N=CN(C)C)NC1=CC=C(C=C1)N(C)C | C15H19N7
reactant | 3-chloro-aniline hydrochloride | 20.1 mmol, 3.3 g | Cl.ClC=1C=C(N)C=CC1
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(3-Chloro-phenylamino)-3-(4-dimethylamino-phenylamino)-1H-pyrazolo-[3,4-d]pyrimidine | ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2NC2=CC=C(C=C2)N(C)C | C19H18ClN7
